US06953792B2
1,1-Dimethylethyl 2-Oxa-8-azaspiro[4.5]decane-8-carboxylate
Diethyl azodicarboxylate (183 μl, 1.16 mmol) in tetrahydrofuran (0.5 mL) was added dropwise to a stirred, cooled (0° C.) solution of 1,1-dimethylethyl 4-(2-hydroxyethyl)-4-(hydroxymethyl)-1-piperidinecarboxylate (Description 42, 250 mg, 0.96 mmol) and triphenylphosphine (303 mg, 1.16 mmol) in tetrahydrofuran (10 mL) and the mixture was stirred at 0° C. for 90 minutes then at room temperature overnight. The mixture was cooled to 0° C. and further triphenylphosphine (126 mg, 0.48 mmol) and diethyl azodicarboxylate (76 μl, 0.48 mmol) were added. The mixture was stirred at room temperature for 2.5 hours, then the solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (80:20), to give the title compound as a colorless oil (150 mg, 65%). m/z (ES+) 186 (M+1-C4H8).

reactant | Diethyl azodicarboxylate | 1.16 mmol, 183 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1,1-dimethylethyl 4-(2-hydroxyethyl)-4-(hydroxymethyl)-1-piperidinecarboxylate | 0.96 mmol, 250 mg | OCCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C13H25NO4
reactant | triphenylphosphine | 1.16 mmol, 303 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.48 mmol, 126 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.48 mmol, 76 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 2-Oxa-8-azaspiro[4.5]decane-8-carboxylate | 150 mg, 65% | C1OCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H23NO3
